US08426446B2
Step 1. Synthesis of 4-(bromomethyl)-3-(trifluoromethyl)benzoic acid
1.0 g of 4-methyl-3-(trifluoromethyl)benzoic acid was dissolved in isopropyl acetate (q.s.). To the mixture, sodium bromate aqueous solution (10 ml, containing 2.2 g of sodium bromate) and sodium bisulfite aqueous solution (10 ml, containing 1.52 g of sodium bisulfite) were added alternatively with stirring. After addition, the solution became brownish red. The mixture was heated to reflux until the solution became colorless. Then the organic layer was separated. Again, to the mixture, sodium bromate aqueous solution (10 ml, containing 2.2 g sodium bromate) and sodium bisulfite aqueous solution (10 ml, containing 1.52 g sodium bisulfite) were added alternatively and the mixture was heated to reflux until the solution became colorless. Then the organic layer was separated. Continually, to the mixture, a sodium bromate aqueous solution (10 ml, containing 2.2 g sodium bromate) and a sodium bisulfite aqueous solution (10 ml, containing 1.52 g sodium bisulfite) were added alternatively, and the mixture was heated to reflux until the solution became colorless. Then the organic layer was separated. The organic layer was washed with 5% sodium sulfate solution twice and 15% sodium chloride solution twice, dried over anhydrous Na2SO4, filtered, concentrated under reduced pressure to dry. The is residue was stirred in petroleum ether, and filtered to give a white solid. m.p. 140-145° C.

reactant | 4-methyl-3-(trifluoromethyl)benzoic acid | 1.0 g | CC1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C9H7F3O2
reactant | sodium bromate | 10 ml, 2.2 g | Br(=O)(=O)[O-].[Na+]
reactant | sodium bisulfite | 10 ml, 1.52 g | S([O-])(O)=O.[Na+]
solvent | isopropyl acetate | C(C)(=O)OC(C)C | C5H10O2
product | 4-(bromomethyl)-3-(trifluoromethyl)benzoic acid | BrCC1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C9H6BrF3O2
